US05629264
Step 3 : Formation of 2-(2,6-dichloro-4-pyridyl)-5,6-diethyl-5-methoxycarbonyl-5,6-dihydropyrimidin-4-one
To 27.0 g (81.8 mmol) of 2-(2,6-dichloro-4-pyridyl)-6-ethyl-5-methoxycarbonyl5,6-dihydropyrimidin-4-one in 500 mL of dimethylformamide was added at 0° C. over 30 min via a solid addition funnel 19.3 g (172 mmol) of potassium-t-butoxide followed by the dropwise addition over 15 min of 13.3 g (85.2 mmol) of iodoethane. The reaction was stirred at 0° C. for one hour before quenching onto 700 mL of ice water. The aqueous was acidified to pH=1 (conc. HCl) and extracted with EtOAc (3×400 mL). The organics were combined before washing with water (2×500 mL), and saturated NaCl (1×300 mL) drying over MgSO4, filtering and evaporating to dryness in vacuo to give 27.32 g (76.3 mmol, 93%) of the desired product as a pale yellow solid with mp=202°-203° C.

reactant | 2-(2,6-dichloro-4-pyridyl)-6-ethyl-5-methoxycarbonyl5,6-dihydropyrimidin-4-one | 81.8 mmol, 27.0 g | ClC1=NC(=CC(=C1)C=1NC(C(C(N1)=O)C(=O)OC)CC)Cl | C13H13Cl2N3O3
reactant | potassium-t-butoxide | 172 mmol, 19.3 g | CC(C)([O-])C.[K+]
reactant | iodoethane | 85.2 mmol, 13.3 g | ICC | C2H5I
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | 2-(2,6-dichloro-4-pyridyl)-5,6-diethyl-5-methoxycarbonyl-5,6-dihydropyrimidin-4-one | 76.3 mmol, 27.32 g, 93% | ClC1=NC(=CC(=C1)C=1NC(C(C(N1)=O)(C(=O)OC)CC)CC)Cl | C15H17Cl2N3O3
